US07368474B2
3. c) 2-{2-[2-(2-Tritylsulfanyl-ethoxy)-ethoxy]-ethoxy}-ethanol
To 2-{2-[2-(2-mercapto-ethoxy)-ethoxy]-ethoxy}-ethanol (310 mg, 1.47 mmol) and trityl chloride (452 mg, 1.62 mmol, 1.1 eq.) in a round bottomed flask was added simultaneously triethylamine (2.1 ml, 10 eq.) and THF (25 ml) under argon. The initial red colour faded upon stirring at ambient temperature for 1 hour. The reaction was monitored by TLC, ethyl acetate/ethanol (1:1) and was completed after 6 hours. Thereafter methanol (6 ml) was added to consume excess trityl chloride and the mixture stirred for 5 minutes before evaporation of the solvents. The residue was purified by flash chromatography using 100% ethyl acetate to afford the product (550 mg, 83%) as a colourless oil.

reactant | 2-{2-[2-(2-mercapto-ethoxy)-ethoxy]-ethoxy}-ethanol | 1.47 mmol, 310 mg | SCCOCCOCCOCCO | C8H18O4S
reactant | trityl chloride | 1.62 mmol, 452 mg, 1.1 eq. | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 2.1 ml, 10 eq. | C(C)N(CC)CC | C6H15N
reactant | THF | 25 ml | C1CCOC1 | C4H8O
solvent | methanol | 6 ml | CO | CH4O
solvent | ethyl acetate ethanol | C(C)(=O)OCC.C(C)O
product | 2-{2-[2-(2-Tritylsulfanyl-ethoxy)-ethoxy]-ethoxy}-ethanol | 550 mg, 83% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)SCCOCCOCCOCCO | C27H32O4S
